US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Cyclopentylmethyl-amide
4-[4-(2-Aminoethyl)anilino]-N-(cyclopentylmethyl)-1-piperidinecarboxamide formate (0.38 g, 0.818 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.32 g, 0.792 mmol) according to Procedure G (eluant: 20:1 going to 10:1 chloroform-methanol) to give the title compound (0.24 g, 0.309 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-(cyclopentylmethyl)-1-piperidinecarboxamide formate | 0.818 mmol, 0.38 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCC2CCCC2)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.792 mmol, 0.32 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Cyclopentylmethyl-amide | 0.309 mmol, 0.24 g | C1(CCCC1)CNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C29H42N4O4
